US09399649B2
Part 2, Step A: A mixture of 5-bromo-2-iodobenzoic acid (12.6 g, 38.5 mmol), but-3-yn-2-ol (3.1 mL, 2.96 g, 42.4 mmol), ZnCl2 (5.2 g, 38.5 mmol), Pd(Ph3P)4 (2.23 g, 1.9 mmol), Et3N (16.0 mL, 11.7 g, 115.5 mmol) and DMF (80 mL) was stirred under argon at 80° C. for 2 hours. After removal of the volatiles under vacuum, the residue was chromatographed (silica gel, ethyl acetate in hexanes, 0-100%) to provide the intermediate 7-bromo-3-(1-hydroxyethyl)-1H-isochromen-1-one as a brown oil (7.5 g, 72%). 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 8.38-8.45 (1H, m), 7.81 (1H, dd, J=8.35, 2.05 Hz), 7.32 (1H, d, J=8.51 Hz), 6.52-6.59 (1H, m), 4.66 (1H, qd, J=6.52, 0.95 Hz), 1.54-1.60 (3H, m).

reactant | 5-bromo-2-iodobenzoic acid | 38.5 mmol, 12.6 g | BrC=1C=CC(=C(C(=O)O)C1)I | C7H4BrIO2
reactant | but-3-yn-2-ol | 42.4 mmol, 3.1 mL, 2.96 g | CC(C#C)O | C4H6O
reactant | Et3N | 115.5 mmol, 16.0 mL, 11.7 g | CCN(CC)CC | C6H15N
catalyst | ZnCl2 | 38.5 mmol, 5.2 g | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(Ph3P)4 | 1.9 mmol, 2.23 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 7-bromo-3-(1-hydroxyethyl)-1H-isochromen-1-one | 7.5 g, 72% | BrC1=CC=C2C=C(OC(C2=C1)=O)C(C)O | C11H9BrO3
